*****************************************************************
* NXP BUK9K8R7-40E
*
* Polarity N-Channel
* Ratings 40V/9.400000E-003OHMS/30A
*
* Date Created Tue Jul 02 02:08:05 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K8R7-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 1000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00477351058901041 TC=0.0057914732813804,2.16886006309906E-05
RBD 9 4 0.00145504975775267 TC=0.0057914732813804,2.16886006309906E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5000000000
CGS 2 6 1.32125265093379e-09
RG 1 2 2.00388

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1596.67
+ -10	1595.29
+ -8	1593.22
+ -6	1589.48
+ -5	1586.03
+ -4	1579.84
+ -3	1561.6
+ -2	1374.15
+ -1	810.297
+ -0.5	573.056
+ -0.2	449.297
+ -0.1	446.461
+ 0	380.71594
+ 0.1	313.54648
+ 0.2	313.26536
+ 0.5	270.45616
+ 1	235.91656
+ 2	200.3476
+ 3	180.8724
+ 4	166.9652
+ 5	156.32076
+ 6	148.56532
+ 8	138.71968
+ 10	132.8706
+ 12	128.87624
+ 15	124.48556
+ 16	123.19948
+ 20	118.90464
+ 25	114.46824
+ 30	110.86628
+ 32	109.56516



.MODEL MINT NMOS(Vto=2.08396638932291 Kp=1.011554e+002 Nfs=440000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.70366170249781e-12
+ N=1 M=0.55 VJ=0.58 Fc=0.5 Cjo=8.7201532e-10 Tt=1.1016e-08)

.ENDS

